US07153878B2
(3-Dimethylthiocarbamoyloxy-phenyl)-acetic acid methyl ester
A mixture of (3-Hydroxy-phenyl)-acetic acid methyl ester (5.5 g, 33.1 mmol), N,N-dimethyl thiocarbamoyl chloride (5.11 g, 41.38 mmol), triethylamine (9.2 mL, 66.2 mmol), N,N-dimethylamino pyridine (0.4 g, 3.31 mmol) and dioxane (50 mL) is stirred at reflux 18 hr. The mixture is concentrated, partioned between 1M aqueous hydrochloric acid (200 mL) and ethyl acetate (3×75 mL). The combined organic extracts are dried over anhydrous magnesium sulfate, filtered, concentrated, and purified via silica chromatography eluting the product with dichloromethane to afford the title compound as a brown oil, 6.8 g, 81%. MS M++1 254. The structure is confirmed by 1H NMR spectroscopy.

reactant | (3-Hydroxy-phenyl)-acetic acid methyl ester | 33.1 mmol, 5.5 g | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | N,N-dimethyl thiocarbamoyl chloride | 41.38 mmol, 5.11 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | triethylamine | 66.2 mmol, 9.2 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (3-Dimethylthiocarbamoyloxy-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC(N(C)C)=S)=O | C12H15NO3S
